US04723002
(C) 1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinecarboxylic acid
300 g (1.22 mol) of 4-oxo-5-(phenylmethoxy)-4H-pyran-2-carboxylic acid was put into a flask and 5 l of 33% ammonium hydroxide was carefully added with stirring. The reaction mixture was then stirred under reflux. After 3 hours, one additional liter of 33% ammonium hydroxide was added slowly. Stirring was continued for further 2 hours under reflux. The reaction solution was then evaporated until the product crystallized. The product was transferred back into the reaction flask and water added until a clear solution was obtained (approximately 5 l, pH 6.38). This solution was stirred vigorously while concentrated hydrochloric acid was added dropwise until a pH of 3 was obtained. The precipitated white product was removed by filtration, thoroughly washed with water and dried. Yield: 273 g.

reactant | 4-oxo-5-(phenylmethoxy)-4H-pyran-2-carboxylic acid | 1.22 mol, 300 g | O=C1C=C(OC=C1OCC1=CC=CC=C1)C(=O)O | C13H10O5
reactant | ammonium hydroxide | 5 l | [OH-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
product | 1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinecarboxylic acid | O=C1C=C(NC=C1OCC1=CC=CC=C1)C(=O)O | C13H11NO4
